**************************************************************************************************************************************************************************************************
*
*     888888               888888 	        888888     .o888888888888o.     8888  		88888888888	o888888888888888     88888888888888o	88888888888   88888888888   8888888888o
*       88888             88888888             88888      .8888888  8888888.    8888  		88888888888    o8888888888888888     888888  8888888o	88888888888   88888888888   88888888888o
*        88888           8888  8888           88888      .8888888.  .8888888.   8888  		8888	       888888888	     888888  88888888	8888	      8888	    8888   88888
*         88888         8888    8888         88888       88888888    88888888   8888		8888   	       888888888	     888888  88888888	8888	      8888	    8888   88888
*	   88888       8888      8888       88888        88888888    88888888   8888  		8888888	       o888888888888888o     888888  8888888o	8888888	      8888888	    8888   88888
*	    88888     8888        8888     88888	 88888888    88888888   8888  		8888888		o888888888888888o    88888888888888o	8888888	      8888888       8888   88888
*	     88888   8888          8888   88888          88888888    88888888   8888  		8888		         88888888    8888		8888	      8888	    8888   88888
*	      88888 8888            8888 88888  	 .8888888.  .8888888.   8888  		8888 			 88888888    8888		8888	      8888	    8888   88888
*	       88888888	 	     88888888		  .8888888  8888888.    88888888888	8888		8888888888888888o    8888		88888888888   88888888888   88888888888o
*		888888		      888888  		   .o888888888888o.     88888888888	8888		888888888888888o     8888		88888888888   88888888888   8888888888o
*
**************************************************************************************************************************************************************************************************
*******************************************************************************
**	DISCLAIMER
*******************************************************************************
**	This model is provided as is, where is, and with no warranty of any kind
**	either expressed or implied, including but not limited to any implied 
**	warranties of merchantability and fitness for a particular purpose.
*******************************************************************************

***********************************************************
****	Wolfspeed SiC MOSFET C3M0030090K package Spice Library 
****	Version 1.0 Date: 1-22-2018
****	Version 2.0 Date: 05-22-2018
***********************************************************
****	Revision record
****	Version 1	Initial Release
****	Version 2	Updated thermal impedance's structure
*********************************************************************************
****Parasitics Included
****Tj = Junction Temperature
****Tc = Case Temperature
****D = Drain
****G = Gate
****S1 = Kelvin Source
****S2 = Power Source
***********************************************************

.subckt C3M0030090K d g s1 s2 Tj Tc

xgmos	d3 d1 g1 s Tj Tc gmos_C3M0030090K

RS1		s1	sb	25.538m
Ls1 		sb	s	6.1196n

RS2		s2	sa	1.42m
Ls2 		sa	s	2.74n

R_g 		g1	g2	3
RG		g	ga	37.2m
Lg 		ga	g3	8.78795n

Rd		d	da	77.52u
Ld 		da	d3      1.172n

G1		d2	d1      Value {V(d1,s)}
R_A		d2	d1	1E6
vgate_s		g3	g2	0
vdrain_s	d3	d2	0
Gheat		0	Tj	value {abs((V(d,s1)*I(Vdrain_s)))+abs((V(g1,g2)*I(Vgate_s)))}
xCGD		d3	g1	cgdmos_C3M0030090K
xCDS		d3	s	cds_C3M0030090K
CGS		g1	s	1740p
D1		s	d2	bodydiode_C3M0030090K


R0 N1 Tj 61.3m
R1 N2 N1 173m
R2 N3 N2 159m
R3 Tc N3 227m
C0 Tj 0 2.54m
C1 N1 0 5.7m
C2 N2 0 40.4m
C3 N3 0 281m

.ends C3M0030090K

*****************************************

.subckt gmos_C3M0030090K d3 d1 g1 s Tj Tc


e1		NET1	0	Value {29.64m*(v(gk,s)**2)-822.143m*v(gk,s)+6.1516}
R_a		NET1	0 	1E6

e2		NET2	0	Value {46.8033m*V(gk,s)-97.9297m}
R_B		NET2	0 	1E6

e3		NET3	0	Value {30u*(V(Tj)**2)-9.4m*V(Tj)+2.6405}
R_C		NET3	0 	1E6

e4		NET4	0	Value {-2.5122u*(V(Tj)**2)-2.2004m*V(Tj)+436.579m}
R_d		NET4	0 	1E6


*e10		NET10   0	Value {90u*(V(gk,s)**2)-20.3m*V(gk,s)+0.3381}
e10		NET10   0	Value {1.4267m*(V(gk,s)**3)-46.992m*(V(gk,s)**2)+478.176m*V(gk,s)-1.3475}
R_K		NET10	0	1E6



e5		NET5	0	value {
+				if(V(gk,s)>13,
+					-1.417u*(V(Tj)**2)-80.012u*v(Tj)+157.89m   
+					,
+					0
+					)
+					}
R_e		NET5	0 	1E6

e6		NET6	0	value {
+				if(V(gk,s)>11 & V(gk,s)<=13,
+					-1.6049u*(V(Tj)**2)-23.146u*v(Tj)+211.58m
+					,
+					0
+					)
+					}
R_f		NET6	0 	1E6

e7		NET7	0	value {
+				if(V(gk,s)>9 & V(gk,s)<=11,
+					-1.9537u*(V(Tj)**2)+253.89u*v(Tj)+269.874m
+					,
+					0
+					)
+					}
R_g		NET7	0 	1E6

e8		NET8	0	value {
+				if(V(gk,s)>7 & V(gk,s)<=9,
+					-1.5366u*(V(Tj)**2)+628.9u*v(Tj)+305.24m   
+					,
+					0
+					)
+					}
R_h		NET8	0 	1E6

e9		NET9	0	value {
+				if(V(gk,s)>V(NET3) & V(gk,s)<=7,
+					1.0035m*v(Tj)+323.193m    
+					,
+					0
+					)
+					}
R_j		NET9	0 	1E6


.param p8  = 0.0011
.param p11 = -8
.param p12 = 19


R100 gk s	1E6
E100 gk s 	value {limit(V(g1,s),p11,p12)}


********************************
G1 d1 s value {
+	if(V(s,d3)<0,
+		0
+		,
+		if (V(gk,s)<v(NET3) ,
+		-((0.035)*(v(gk,s)-V(NET3)))*(-(1+p8*v(s,d3))*0.008)*(((log(1+exp(v(gk,s)-V(NET3))))**2)
+		-((log(1+exp(v(gk,s)-V(NET3)-(0.854*v(s,d3)))))**2))
+		,
+		-(((v(NET5)+v(NET6)+v(NET7)+v(NET8)+v(NET9))*(v(gk,s)-V(NET3))))*(1+p8*v(s,d3))
+		*(((log(1+exp(v(gk,s)-V(NET3))))**2)-((log(1+exp(v(gk,s)-V(NET3)-
+		(V(NET2)*v(s,d3)*((1+exp(-v(NET10)*v(s,d3)))**v(NET1))))))**2))
+		)
+			)
+			}
G2 d1 s value {
+	if(V(d3,s)<0,
+		0
+		,
+		if (V(gk,s)<v(NET3) ,
+		((0.035)*(v(gk,s)-V(NET3)))*(-(1+p8*v(d3,s))*0.008)*(((log(1+exp(v(gk,s)-V(NET3))))**2)
+		-((log(1+exp(v(gk,s)-V(NET3)-(0.854*v(d3,s)))))**2))
+		,
+		(((v(NET5)+v(NET6)+v(NET7)+v(NET8)+v(NET9))*(v(gk,s)-V(NET3))))*(1+p8*v(d3,s))
+		*(((log(1+exp(v(gk,s)-V(NET3))))**2)-((log(1+exp(v(gk,s)-V(NET3)-
+		(V(NET2)*v(d3,s)*((1+exp(-v(NET10)*v(d3,s)))**v(NET1))))))**2))
+		)
+			)
+			}

.ends gmos_C3M0030090K

****************************************

.subckt cgdmos_C3M0030090K d3 g1
.param k1=767p	
.param k2=0.4		
.param ka=150
.param kb=0.65	
.param kc=7.0277	
G11 g1 d1 value {
+		k1*(
+		(1+(limit(v(d3,g1),0,570))*(1+ka*(1+TANH(kb*V(d3,g1)-kc))/2))**-k2
+		)*ddt(v(g1,d3))
+			}
R_CGD d1 d3 1e-4
.ends cgdmos_C3M0030090K

.subckt cds_C3M0030090K d3 s

.param Cjo = 2564p
.param Vj  = 6.92084
.param M   = 0.71006
   
G12 d1 s value {
+	if(V(d3,s)>0,
+		(Cjo/(1+((limit(ABS(v(d3,s)),0,470))/Vj))**M)*ddt(v(d3,s))
+		,
+		0
+			)
+			}

R_CDS d1 d3 1e-4
.ends cds_C3M0030090K

****************************************
.model bodydiode_C3M0030090K d(is=160.889n bv=1160 EG=5.62874 n=9.05 
+	rs=0.025  trs1=-0.00150046  trs2=9.09102u Tnom=25 
+	tt=6.5n ibv=500u Xti=0.13 level=1)




