
**************************************************************************************************************************************************************************************************
*
*     888888               888888 	        888888     .o888888888888o.     8888  		88888888888	o888888888888888     88888888888888o	88888888888   88888888888   8888888888o
*       88888             88888888             88888      .8888888  8888888.    8888  		88888888888    o8888888888888888     888888  8888888o	88888888888   88888888888   88888888888o
*        88888           8888  8888           88888      .8888888.  .8888888.   8888  		8888	       888888888	     888888  88888888	8888	      8888	    8888   88888
*         88888         8888    8888         88888       88888888    88888888   8888		8888   	       888888888	     888888  88888888	8888	      8888	    8888   88888
*	   88888       8888      8888       88888        88888888    88888888   8888  		8888888	       o888888888888888o     888888  8888888o	8888888	      8888888	    8888   88888
*	    88888     8888        8888     88888	 88888888    88888888   8888  		8888888		o888888888888888o    88888888888888o	8888888	      8888888       8888   88888
*	     88888   8888          8888   88888          88888888    88888888   8888  		8888		         88888888    8888		8888	      8888	    8888   88888
*	      88888 8888            8888 88888  	 .8888888.  .8888888.   8888  		8888 			 88888888    8888		8888	      8888	    8888   88888
*	       88888888	 	     88888888		  .8888888  8888888.    88888888888	8888		8888888888888888o    8888		88888888888   88888888888   88888888888o
*		888888		      888888  		   .o888888888888o.     88888888888	8888		888888888888888o     8888		88888888888   88888888888   8888888888o
*
**************************************************************************************************************************************************************************************************
*******************************************************************************
**	DISCLAIMER
*******************************************************************************
**	This model is provided as is, where is, and with no warranty of any kind
**	either expressed or implied, including but not limited to any implied
**	warranties of merchantability and fitness for a particular purpose.
*******************************************************************************

***********************************************************
****	Wolfspeed SiC MOSFET C3M0032120K Spice Library
****	Version 1.0 Date: 07-05-2019
****
***********************************************************
****	Revision record
****	Version 1	Initial Release
****
***********************************************************
****Parasitics Included
****Tj = Junction Temperature
****Tc = Case Temperature
****D =  Drain
****G =  Gate
****S1 = Kelvin Source
****S2 = Power Source
***********************************************************


.subckt C3M0032120K d g s1 s2 Tj Tc
.param Rgint = 1.7
xgmos	d3 d1 g1 s Tj gmos_C3M0032120K

RS1		s1	sb	8.7674m
Ls1 		sb	s	7.57281n

RS2		s2	sa	1.006m
Ls2 		sa	s	2.744n

*Rv		sv	st	133u
*Lv		st	s	0.5n


R_g 		g1	g2	{Rgint}
RG		g	ga	12.2684m
Lg 		ga	g2	10.4863n


Rd		d	da	87.416u
Ld 		da	d3      4.3659n
R_Ld		da	d3	5

Ed		Id	0	value {I(Vdrain_s)}
Rdd		Id	0	1E6


vdrain_s	d3	d1	0
Gheat		0	Tj	value = {abs((V(d1,s)*v(Id)))+abs((V(g1,g2)*V(g1,g2)/Rgint))}

xCGD		d3	g1	cgdmos_C3M0032120K
CGS		g1	s	3349p
D1		s	d1	bodydiode_C3M0032120K
xCDS		d3	s	cds_C3M0032120K

R0 N1 Tj 51.889m
R1 N2 N1 139.008m
R2 N3 N2 105.831m
R3 Tc N3 148.683m
C0 Tj 0 1.612m
C1 N1 0 7.933m
C2 N2 0 24.943m
C3 N3 0 118.248m

.ends C3M0032120K

*****************************************

.subckt gmos_C3M0032120K d3 d1 g1 s Tj 

e1		NET1	0	Value {((-197.6u*V(Tj)**2+16.59m*V(Tj)+0.8547)*(V(gk,s)**3)+
+					(5.279m*V(Tj)**2-0.3973*V(Tj)-5.998)*(V(gk,s)**2)+
+					(-46.92m*V(Tj)**2+3.104*V(Tj)-133.4)*v(gk,s)+
+					(0.1178*V(Tj)**2-6.694*V(Tj)+2522))/1000
+					}
R_a		NET1	0 	1E6

e2		NET2	0	Value {15.35m*V(gk,s)+371.85m}
R_B		NET2	0 	1E6

e3		NET3	0	Value {8u*(V(Tj)**2)-4m*V(Tj)+2.5845}
R_C		NET3	0 	1E6

*e4		NET4	0	value {0.001}
e4		NET4	0	Value {limit(233.751n*V(Tj)**2-73.4168u*V(Tj)+6.68933m,0.001,0.01)}
R_d		NET4	0 	1E6

*e5		NET5	0	value {0.067}
e5		NET5	0	value {
+					if(V(gK,s)<=15,
+					((-1.5236u*V(Tj)**2+94.716u*V(Tj)+10.754m)*(V(gk,s)**4)+
+					(67.66u*V(Tj)**2-2.2066m*V(Tj)-0.29992)*(V(gk,s)**3)+
+					(-987.61u*V(Tj)**2+518.15u*V(Tj)+0.1649)*(V(gk,s)**2)+
+					(5.4234m*V(Tj)**2+0.1312*V(Tj)+38.95)*v(gk,s)+
+					(-9.0569m*V(Tj)**2+0.35338*V(Tj)-105.97))/1000
+					,
+					((886.23u*V(Tj)**2-0.21895*V(Tj)+8.3539)*(V(gk,s)**2)+
+					(-25.146m*V(Tj)**2+6.4643*V(Tj)-263.29)*v(gk,s)+
+					(0.17918*V(Tj)**2-47.928*V(Tj)+2117.2))/1000
+					)
+					}
R_e		NET5	0 	1E6

*e10		NET10   0	Value {0.049}
e10		NET10   0	Value {Limit(((-78.35u*V(Tj)**2+39.21m*V(Tj)-2.181)*(V(gK,s)**3)+
+					(3.011m*V(Tj)**2-1.412*V(Tj)+75.91)*(V(gk,s)**2)+
+					(-37.55m*V(Tj)**2+16.49*V(Tj)-862.5)*v(gk,s)+
+					(0.1513*V(Tj)**2-62.52*V(Tj)+3329))/1000,0.01,1)
+				      }
R_K		NET10	0	1E6

.param p10  = 0.0011
.param p11 = -8
.param p12 = 19


e_p8	P8	0	Value {Limit(((-45.23u*V(Tj)**2+8.432m*V(Tj)-0.2257)*(V(gk,s)**3)+
+					(1.324m*V(Tj)**2-0.2578*V(Tj)+7.858)*(V(gk,s)**2)+
+					(-12.64m*V(Tj)**2+2.507*V(Tj)-70.70)*v(gk,s)+
+					(39.38m*V(Tj)**2-7.854*V(Tj)+218.1))/1000,0.015,0.5)
+					}
R_R	P8	0 	1E6

R100 gk s	1E6
E100 gk s 	value {limit(V(g1,s),p11,p12)}

********************************
G1 d1 s value {
+	if(V(s,d3)<0,
+		0
+		,
+		if (V(gk,s)<V(NET3) ,
+		-((0.035)*(v(gk,s)-V(NET3)))*(-(1+p10*v(s,d3))*0.008)*(((log(1+exp(v(gk,s)-V(NET3))))**2)-
+		((log(1+exp(v(gk,s)-V(NET3)-(0.854*v(s,d3)))))**2))
+		,
+		-((v(NET5)+v(NET4))*(v(gk,s)-V(NET3)))*(1+v(P8)*v(s,d3))*(((log(1+exp(v(gk,s)-V(NET3))))**2)-
+		((log(1+exp(v(gk,s)-V(NET3)-(V(NET2)*v(s,d3)*((1+exp(-v(NET10)*v(s,d3)))**v(NET1))))))**2))
+		)
+			)
+			}
G2 d1 s value {
+	if(V(d3,s)<0,
+		0
+		,
+		if (V(gk,s)<V(NET3) ,
+		((0.035)*(v(gk,s)-V(NET3)))*(-(1+p10*v(d3,s))*0.008)*(((log(1+exp(v(gk,s)-V(NET3))))**2)-
+		((log(1+exp(v(gk,s)-V(NET3)-(0.854*v(d3,s)))))**2))
+		,
+		((v(NET5)*(v(gk,s)-V(NET3))))*(1+v(P8)*v(d3,s))*(((log(1+exp(v(gk,s)-V(NET3))))**2)-
+		((log(1+exp(v(gk,s)-V(NET3)-(V(NET2)*v(d3,s)*((1+exp(-v(NET10)*v(d3,s)))**v(NET1))))))**2))
+		)
+			)
+			}


.ends gmos_C3M0032120K

****************************************

.subckt cgdmos_C3M0032120K d3 g1
.param k1=1263p
.param k2=0.5
.param ka=40
.param kb=0.3
.param kc=4.03
G11 g1 d1 value {
+		k1*(
+		(1+(limit(v(d3,g1),0,550))*(1+ka*(1+TANH(kb*V(d3,g1)-kc))/2))**-k2
+		)*ddt(v(g1,d3))
+			}
R_CGD d1 d3 1E-4
.ends cgdmos_C3M0032120K


.subckt cds_C3M0032120K d3 s

.param Cjo = 2806p
.param Vj  = 4.4365
.param M   = 0.66

G12 d1 s value {
+	if(V(d3,s)>0,
+		(Cjo/(1+(limit(v(d3,s),0,514)/Vj)**M))*ddt(v(d3,s));
+		,
+		0
+			)
+			}

R_CDS d1 d3 1E-4

.ends cds_C3M0032120K

****************************************
.model bodydiode_C3M0032120K d(is=100n bv=1590 EG=5 n=8.4
+	rs=0.0225  trs1=0.00001  trs2=-0.00001 Tnom=25
+	tt=0.5n ibv=500u Xti=0.13 level=1)
